US05686610
1-(1,1-Dimethylethoxycarbonyl)-cis-3,5-dimethylpiperazine
Di-tert-butyldicarbonate (5.42 g) in dry methylene chloride (20 ml) is added to a solution of cis-2,6-dimethylpiperazine in dry methylene chloride (70 ml) over one hour. The mixture is stirred an additional 30 min, washed with water and saline, dried over sodium sulfate and concentrated to give the title compound, NMR (chloroform-d) 3.95, 2.77, 2.32, 1.46, 1.06 δ.

reactant | Di-tert-butyldicarbonate | 5.42 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | cis-2,6-dimethylpiperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 1-(1,1-Dimethylethoxycarbonyl)-cis-3,5-dimethylpiperazine | CC(C)(OC(=O)N1C[C@H](N[C@H](C1)C)C)C | C11H22N2O2
